US04786646
A solution of 1 g of (E)-4-(4-isoquinolinyl)-3-buten-1-amine in 20 mL of ethanol was hydrogenated over 0.12 g of 10% Pd/C at room temperature and atmospheric pressure. After 8 hours, the catalyst was removed by filtration and the filtrate was concentrated to yield 0.893 g of 4-isoquinolinebutanamine.

reactant | (E)-4-(4-isoquinolinyl)-3-buten-1-amine | 1 g | C1=NC=C(C2=CC=CC=C12)/C=C/CCN | C13H14N2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.12 g | [Pd] | Pd
product | 4-isoquinolinebutanamine | 0.893 g | C1=NC=C(C2=CC=CC=C12)CCCCN | C13H16N2
